### PR TITLE
Add more `Data.Rational.Properties`

### PR DESCRIPTION
**Pull request by kleinreact**
I needed the following common properties over normalized rationals for some proofs, but found them to be missing in the library.
```agda
↥[i/1]≡i        : (i : ℤ) → ↥ (i / 1) ≡ i
↧ₙ[i/1]≡1       : (i : ℤ) → ↧ₙ (i / 1) ≡ 1
n/n≡1           : ∀ (n : ℕ) .{{_ : ℕ.NonZero n}} → + n / n ≡ 1ℚ
-i/n≡-[i/n]     : ∀ (i : ℤ) (n : ℕ) .{{_ : ℕ.NonZero n}} →
                  ℤ.- i / n ≡ - (i / n)
*-cancelˡ-/     : ∀ p {q r} .{{_ : ℕ.NonZero r}} .{{_ : ℕ.NonZero (p ℕ.* r)}} →
                  (+ p ℤ.* q) / (p ℕ.* r) ≡ q / r
*-cancelʳ-/     : ∀ p {q r} .{{_ : ℕ.NonZero r}} .{{_ : ℕ.NonZero (r ℕ.* p)}} →
                  (q ℤ.* + p) / (r ℕ.* p) ≡ q / r
i/n+j/n≡[i+j]/n : ∀ (i j : ℤ) (n : ℕ) .{{_ : ℕ.NonZero n }} →
                  i / n + j / n ≡ (i ℤ.+ j) / n
```
Hence, my proposal to add them with this PR.

### CODE REVIEW

File: src/Data/Rational/Properties.agda [hunk 1]
```diff
@@ -394,12 +394,51 @@ normalize-injective-≃ m n c d eq = ℕ./-cancelʳ-≡
 ↥p/↧p≡p (mkℚ (+ n)    d-1 prf) = normalize-coprime prf
 ↥p/↧p≡p (mkℚ -[1+ n ] d-1 prf) = cong (-_) (normalize-coprime prf)
 
+↥[i/1]≡i : (i : ℤ) → ↥ (i / 1) ≡ i
+↥[i/1]≡i i = begin
```
Comment (JacquesCarette) [inline src/Data/Rational/Properties.agda:398]: This feels like an awfully complicated proof for something so simple. I wonder if a "first principles" proof, by matching on i, would be simpler?

File: src/Data/Rational/Properties.agda [hunk 2]
```diff
@@ -394,12 +394,51 @@ normalize-injective-≃ m n c d eq = ℕ./-cancelʳ-≡
...
+    (↥ (i / 1))              ≡⟨ sym $ ℤ.*-identityʳ (↥ (i / 1)) ⟩
+    (↥ (i / 1)) ℤ.* 1ℤ       ≡⟨ cong (↥ (i / 1) ℤ.*_) $ sym $ gcd-zeroʳ i ⟩
+    (↥ (i / 1)) ℤ.* gcd i 1ℤ ≡⟨ ↥-/ i 1 ⟩
+    i                        ∎
+  where open ≡-Reasoning
+
+↧ₙ[i/1]≡1 : (i : ℤ) → ↧ₙ (i / 1) ≡ 1
+↧ₙ[i/1]≡1 i = ℤ.+-injective $ begin
```
Comment (JacquesCarette) [inline src/Data/Rational/Properties.agda:407]: Possibly the same here.

File: src/Data/Rational/Properties.agda [hunk 3]
```diff
@@ -394,12 +394,51 @@ normalize-injective-≃ m n c d eq = ℕ./-cancelʳ-≡
...
   n/n≢0   = ℕ.>-nonZero (subst (ℕ._> 0) (sym (ℕ.n/n≡1 n)) (ℕ.z<s))
 
+n/n≡1 : ∀ (n : ℕ) .{{_ : ℕ.NonZero n}} → + n / n ≡ 1ℚ
+n/n≡1 n {{nz}} = mkℚ+-cong n/gcd[n,n]≡1 n/gcd[n,n]≡1
+  where
+  instance g≢0   = ℕ.≢-nonZero (ℕ.gcd[m,n]≢0 n n (inj₂ (ℕ.≢-nonZero⁻¹ n)))
+           n/g≢0 = ℕ.≢-nonZero (ℕ.n/gcd[m,n]≢0 n n {{gcd≢0 = g≢0}})
+
+  gcd[n,n]≡n : ∀ n → ℕ.gcd n n ≡ n
+  gcd[n,n]≡n n rewrite sym (ℕ.*-identityʳ n)
```
Comment (JacquesCarette) [inline src/Data/Rational/Properties.agda]: We tend not to use `rewrite` in `stdlib`. Also this lemma should go in to `Data.Nat.GCD`.

File: src/Data/Rational/Properties.agda [hunk 4]
```diff
@@ -1361,6 +1400,40 @@ module _ where
...
+      p≢0    = ℕ.m*n≢0⇒m≢0 p
+      g≢0    = ℕ.≢-nonZero $ ℕ.gcd[m,n]≢0 (p ℕ.* qₙ) (p ℕ.* r) $ inj₂
+                           $ ℕ.≢-nonZero⁻¹ $ p ℕ.* r
+      n/g≢0  = ℕ.≢-nonZero $ ℕ.n/gcd[m,n]≢0 (p ℕ.* qₙ) (p ℕ.* r) {{gcd≢0 = g≢0}}
+      g≢0'   = ℕ.≢-nonZero $ ℕ.gcd[m,n]≢0 qₙ r $ inj₂ $ ℕ.≢-nonZero⁻¹ r
+      n/g≢0' = ℕ.≢-nonZero $ ℕ.n/gcd[m,n]≢0 qₙ r {{gcd≢0 = g≢0'}}
+      p*g≢0  = ℕ.m*n≢0 p (ℕ.gcd qₙ r)
+
+    lemma : ∀ n → (p ℕ.* n) ℕ./ ℕ.gcd (p ℕ.* qₙ) (p ℕ.* r) ≡ n ℕ./ ℕ.gcd qₙ r
+    lemma n = trans (ℕ./-congʳ $ sym $ ℕ.c*gcd[m,n]≡gcd[cm,cn] p qₙ r)
```
Comment (JacquesCarette) [inline src/Data/Rational/Properties.agda]: an equational proof would be more readable here

File: src/Data/Rational/Properties.agda [hunk 5]
```diff
@@ -1361,6 +1400,40 @@ module _ where
...
+                    (ℕ.m*n/m*o≡n/o p n $ ℕ.gcd qₙ r)
+
+  proof : ∀ q → (+ p ℤ.* q) / (p ℕ.* r) ≡ q / r
+  proof (+ qₙ)    rewrite sym (ℤ.pos-* p qₙ) = *-cancelˡ-/-helper qₙ
```
Comment (JacquesCarette) [inline src/Data/Rational/Properties.agda]: Please make these explicit instead of using `rewrite`

File: src/Data/Rational/Properties.agda [hunk 6]
```diff
@@ -1844,6 +1917,70 @@ toℚᵘ-homo-∣-∣ (mkℚ -[1+ _ ] _ _) = *≡* refl
...
+   _ = ℕ.m*n≢0 (↧ₙ pᵢ ℕ.* ↧ₙ qⱼ) gcd[j,n]ₙ
+   _ = ℕ.m*n≢0 (↧ₙ pᵢ ℕ.* ↧ₙ qⱼ ℕ.* gcd[j,n]ₙ) gcd[i,n]ₙ
+   _ = ℕ.m*n≢0 n n
+
+  +-def : pᵢ + qⱼ ≡ (↥ pᵢ ℤ.* ↧ qⱼ ℤ.+ ↥ qⱼ ℤ.* ↧ pᵢ) / (↧ₙ pᵢ ℕ.* ↧ₙ qⱼ)
+  +-def with record{} ← pᵢ with record{} ← qⱼ = refl
+
+  ↥≡ : (↥ pᵢ ℤ.* ↧ qⱼ ℤ.+ ↥ qⱼ ℤ.* ↧ pᵢ) ℤ.* gcd[j,n] ℤ.* gcd[i,n]
+     ≡ (i ℤ.+ j) ℤ.* + n
+  ↥≡ rewrite ℤ.*-distribʳ-+ gcd[j,n] (↥ pᵢ ℤ.* ↧ qⱼ) (↥ qⱼ ℤ.* ↧ pᵢ)
```
Comment (JacquesCarette) [inline src/Data/Rational/Properties.agda]: most definitely needs to be done equationally!

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

File: src/Data/Rational/Properties.agda [hunk 7]
```diff
@@ -1361,6 +1400,40 @@ module _ where
   heytingField : HeytingField 0ℓ 0ℓ 0ℓ
   heytingField = record { isHeytingField = isHeytingField }
 
+------------------------------------------------------------------------
+-- Properties of _*_ and _/_
+
+*-cancelˡ-/ : ∀ p {q r} .{{_ : ℕ.NonZero r}} .{{_ : ℕ.NonZero (p ℕ.* r)}} →
```
Comment (jamesmckinna) [inline src/Data/Rational/Properties.agda:1401]: Others may disagree, but I find this kind of quantification annoying, especially when you will have to explicitly plumb in the derived `instance` `p≢0` immediately below.

I know that it is to ensure that the typechecker is OK with the well-formedness of `(+ p ℤ.* q) / (p ℕ.* r)`, but I would personally find it more mathematically plausible (even if more ugly/unwieldy) to write

```suggestion
*-cancelˡ-/ : ∀ p {q r} .{{_ : ℕ.NonZero r}} .{{_ : ℕ.NonZero p}} (let instance _ = ℕ.m*n≢0 p r) →
```
or even to lift all of this prefix out as part of a `module _ ...` declaration.

**Comment by MatthewDaggitt** [comment]
Thanks for the great first PR @kleinreact! Will you have a chance to address the review comments?

File: src/Data/Rational/Properties.agda (hunk 1 above)
Comment (kleinreact) [reply src/Data/Rational/Properties.agda:398]: > This feels like an awfully complicated proof for something so simple

I agree, but I wasn't able to find any simpler proof using "first principles". You still have to make the argument that `i / 1` is already normalized and therefore the gcd drops. 

If you have any concrete idea how this could be written down more elegantly, then please let me know.

File: src/Data/Rational/Properties.agda (hunk 2 above)
Comment (kleinreact) [reply src/Data/Rational/Properties.agda:407]: As noted in the previous comment, you still have to show that `i / 1` is already normalized. I don't see how you could get around that.

File: src/Data/Rational/Properties.agda (hunk 3 above)
Comment (kleinreact) [reply src/Data/Rational/Properties.agda]: Thanks for the feedback. I wasn't aware. Maybe something to be added to the style guide.

I switched to ≡-Reasoning and moved the lemma to `Data.Nat.GCD`.

File: src/Data/Rational/Properties.agda (hunk 4 above)
Comment (kleinreact) [reply src/Data/Rational/Properties.agda]: Updated accordingly.

File: src/Data/Rational/Properties.agda (hunk 5 above)
Comment (kleinreact) [reply src/Data/Rational/Properties.agda]: Changed it to use equational reasoning instead.

File: src/Data/Rational/Properties.agda (hunk 6 above)
Comment (kleinreact) [reply src/Data/Rational/Properties.agda]: :+1:

File: src/Data/Rational/Properties.agda (hunk 7 above)
Comment (kleinreact) [reply src/Data/Rational/Properties.agda:1401]: I agree. I just didn't want to deviate from their unnormalized twins using a similar type signature, e.g., 

https://github.com/agda/agda-stdlib/blob/f8eec4ffa8d14bdb27123a0f900063ae7a57b5dc/src/Data/Rational/Unnormalised/Properties.agda#L1246-L1247

Changing that one as well would introduce an API change, where I'd prefer to keep this PR a pure addition instead of also changing some parts of the existing API.

File: src/Data/Rational/Properties.agda (hunk 1 above)
Comment (JacquesCarette) [reply src/Data/Rational/Properties.agda:398]: I doodled a bit, and also didn't find anything - but I'm not surprised, as I am quite unfamiliar with this part of the library. Don't worry about it.

**Review by JacquesCarette — APPROVED** [review]

File: src/Data/Nat/GCD.agda [hunk 8]
```diff
@@ -205,6 +205,16 @@ m/gcd[m,n]≢0 : ∀ m n .{{_ : NonZero m}} .{{gcd≢0 : NonZero (gcd m n)}} →
...
 
+gcd[n,n]≡n : ∀ n → gcd n n ≡ n
+gcd[n,n]≡n n = begin
+  gcd n n             ≡⟨ ≡.cong₂ gcd n≢n*1 n≢n*1 ⟩
+  gcd (n * 1) (n * 1) ≡⟨ ≡.sym (c*gcd[m,n]≡gcd[cm,cn] n 1 1) ⟩
+  n * gcd 1 1         ≡⟨ *-identityʳ n ⟩
+  n                   ∎
+  where
+  open ≡-Reasoning
+  n≢n*1 = ≡.sym (*-identityʳ n)
```
Comment (jamesmckinna) [inline src/Data/Nat/GCD.agda]: This can be streamlined as follows:
* `cong₂` can be added to the import list from `PropositionalEquality.Core`, for the first line
* equality proofs can always be flipped wrt `sym` by making the closing bracket `⟨` instead of `⟨`, so the first two steps can be further simplified...
* ... once you note that the `where`-bound `n≡n*1` can instead be flipped, at which point it becomes shared/shareable between all three occurrences of `*-identityʳ n`

Leading to:
```suggestion
  gcd n n             ≡⟨ cong₂ gcd n*1≡n n*1≡n ⟨
  gcd (n * 1) (n * 1) ≡⟨ c*gcd[m,n]≡gcd[cm,cn] n 1 1 ⟨
  n * gcd 1 1         ≡⟨ n*1≡n ⟩
  n                   ∎
  where
  open ≡-Reasoning
  n*1≡n = *-identityʳ n
```

The alternative would be to reason purely abstractly from the "three core properties" of `gcd` as a categorical product wrt the divisibility ordering:
```agda
gcd[n,n]≡n n = ∣-antisym gcd[n,n]∣n n∣gcd[n,n]
  where
    gcd[n,n]∣n = gcd[m,n]∣n n n
    n∣gcd[n,n] = gcd-greatest ∣-refl ∣-refl
```

File: src/Data/Rational/Properties.agda [hunk 9]
```diff
@@ -394,12 +394,45 @@ normalize-injective-≃ m n c d eq = ℕ./-cancelʳ-≡
 ↥p/↧p≡p (mkℚ (+ n)    d-1 prf) = normalize-coprime prf
 ↥p/↧p≡p (mkℚ -[1+ n ] d-1 prf) = cong (-_) (normalize-coprime prf)
 
+↥[i/1]≡i : (i : ℤ) → ↥ (i / 1) ≡ i
+↥[i/1]≡i i = begin
+    (↥ (i / 1))              ≡⟨ sym $ ℤ.*-identityʳ (↥ (i / 1)) ⟩
+    (↥ (i / 1)) ℤ.* 1ℤ       ≡⟨ cong (↥ (i / 1) ℤ.*_) $ sym $ gcd-zeroʳ i ⟩
```
Comment (jamesmckinna) [inline src/Data/Rational/Properties.agda]: Similarly, `sym` can be eliminated from these steps...

File: src/Data/Rational/Properties.agda [hunk 10]
```diff
@@ -394,12 +394,45 @@ normalize-injective-≃ m n c d eq = ℕ./-cancelʳ-≡
...
+    (↥ (i / 1)) ℤ.* gcd i 1ℤ ≡⟨ ↥-/ i 1 ⟩
+    i                        ∎
+  where open ≡-Reasoning
+
+↧ₙ[i/1]≡1 : (i : ℤ) → ↧ₙ (i / 1) ≡ 1
+↧ₙ[i/1]≡1 i = ℤ.+-injective $ begin
+    ↧ (i / 1)               ≡⟨ sym $ ℤ.*-identityʳ (↧ (i / 1)) ⟩
+    ↧ (i / 1) ℤ.* 1ℤ        ≡⟨ cong (↧ (i / 1) ℤ.*_) $ sym $ gcd-zeroʳ i ⟩
```
Comment (jamesmckinna) [inline src/Data/Rational/Properties.agda]: ... And here also!

**Comment by jamesmckinna** [comment]
I'd be happy to merge these additions once my last round of comments have been addressed, but I wonder if, for a followup PR, whether it would be easier to prove some of these for *unnormalised* rationals `ℚᵘ`, and then transport them across to `ℚ`...?

Specifically, eg for `Data.Rational.Unnormalised.Properties`, we already have (L21-L25)
```agda
↥[n/d]≡n : ∀ n d .{{_ : ℕ.NonZero d}} → ↥ (n / d) ≡ n
↥[n/d]≡n n (suc d) = refl

↧[n/d]≡d : ∀ n d .{{_ : ℕ.NonZero d}} → ↧ (n / d) ≡ ℤ.+ d
↧[n/d]≡d n (suc d) = refl
```
etc.

File: src/Data/Nat/GCD.agda (hunk 8 above)
Comment (kleinreact) [reply src/Data/Nat/GCD.agda]: Neat! Wasn't aware of this particular `⟨` use case. 

Thanks.

**Comment by kleinreact** [comment]
> I'd be happy to merge these additions once my last round of comments have been addressed, but I wonder if, for a followup PR, whether it would be easier to prove some of these for unnormalised rationals ℚᵘ, and then transport them across to ℚ...?

I elided most of the `sym`s via using `⟨` instead (whenever possible).

I originally tried to better utilize ℚᵘ in the hope to end up with an easier transfer of the required properties to the normalized ones. However, I could not really find any suitable link. Maybe a hint that there is still some more fundamental property missing, which could make these proofs much more streamlined. Maybe I also just missed it.

**Review by jamesmckinna — APPROVED** [review]
Thanks for the prompt action on our extensive review comments, and for a very nice first PR!

**Comment by jamesmckinna** [comment]
Many thanks again @kleinreact for this contribution. Might you further be interested in contributing PRs which tackle issue #2193 ?

**Comment by kleinreact** [comment]
> Might you further be interested in contributing PRs which tackle issue https://github.com/agda/agda-stdlib/issues/2193 ?

Thanks for asking, but I don't have enough spare time to work on this at the moment.

**Comment by jamesmckinna** [comment]
No worries! Thanks again.
